US06642386B2
In analogy to example 1.5, (RS)-(4-cyano-phenylamino)-(5-ethoxy-2-fluoro-3-hydroxy-phenyl)-acetic acid ethyl ester described in example 1.4 was reacted with 4-(2-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester, diethyl azodicarboxylate and triphenylphosphine to give (RS)-4-(2-{3-[(4-cyano-phenylamino)-ethoxycarbonyl-methyl]-5-ethoxy-2-fluoro-phenoxy}-ethyl)-piperidine-1-carboxylic acid tert-butyl ester as a colorless solid. MS: 570.2 ([M+H]+).

reactant | (RS)-(4-cyano-phenylamino)-(5-ethoxy-2-fluoro-3-hydroxy-phenyl)-acetic acid ethyl ester | C(C)OC(C(C1=C(C(=CC(=C1)OCC)O)F)NC1=CC=C(C=C1)C#N)=O | C19H19FN2O4
reactant | 4-(2-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (RS)-4-(2-{3-[(4-cyano-phenylamino)-ethoxycarbonyl-methyl]-5-ethoxy-2-fluoro-phenoxy}-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=C(C(=CC(=C1)OCC)C(C(=O)OCC)NC1=CC=C(C=C1)C#N)F | C31H40FN3O6
